US06919356B2
Part C: Preparation of 1-[3-(1-methyl-1H-tetrazol-5-yl)phenyl]-3-{cis-1-[2-(4-fluorophenyl)-ethyl]-4-methylpiperidin-3-ylmethyl}-urea
A solution of cis-1-[2-(4-fluorophenyl)ethyl]-4-methyl-piperidin-3-ylmethylamine (54 mg, 215 μmol) and [3-(1-methyl-1H-tetrazol-5-yl)phenyl]-carbamic acid phenyl ester (64 mg, 215 μmol) in N,N-dimethylformamide (2 mL) was treated with triethylamine (60 μL, 431 μmol). After 18 hours, the mixture was concentrated under vacuum. The residue was purified by flash chromatography, eluting with 3% methanol in dichloromethane containing 0.3% aqueous ammonium hydroxide, to provide an amorphous solid (73 mg, 75%). 1H NMR (300 MHz, CDCl3) δ7.95 (s, 1H), 7.64 (d, J=7 Hz, 1H), 7.41 (t, J=8 Hz, 1H), 7.29 (m, 1H), 7.11 (m, 2H), 6.97 (t, J=9 Hz, 2H), 4.17 (s, 3H), 3.42 (m, 1H), 3.26 (m, 1H), 3.1-2.5 (m, 8H), 2.1-1.6 (m, 4H), 0.99 (d, J=7 Hz, 3H). Mass spec (AP+) m/z 452.1 (M+H+).

reactant | cis-1-[2-(4-fluorophenyl)ethyl]-4-methyl-piperidin-3-ylmethylamine | 215 μmol, 54 mg | FC1=CC=C(C=C1)CCN1C[C@H]([C@H](CC1)C)CN | C15H23FN2
reactant | [3-(1-methyl-1H-tetrazol-5-yl)phenyl]-carbamic acid phenyl ester | 215 μmol, 64 mg | C1(=CC=CC=C1)OC(NC1=CC(=CC=C1)C1=NN=NN1C)=O | C15H13N5O2
reactant | triethylamine | 431 μmol, 60 μL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 1-[3-(1-methyl-1H-tetrazol-5-yl)phenyl]-3-{cis-1-[2-(4-fluorophenyl)-ethyl]-4-methylpiperidin-3-ylmethyl}-urea | 73 mg, 75% | CN1N=NN=C1C=1C=C(C=CC1)NC(=O)NC[C@@H]1CN(CC[C@@H]1C)CCC1=CC=C(C=C1)F | C24H30FN7O
